US09359381B2
Step 5: 3-(9-(4-Chlorothiazol-2-yl)-1,3-dimethyl-2,4-dioxo-2,3,4,7,8,9-hexahydro-1H-pyrimido[4,5-a]pyrrolizin-5-yl)benzonitrile
Trifluoromethanesulfonic anhydride (0.445 mL, 2.63 mmol) was added to a solution of 3-(6-(3-(4-chlorothiazol-2-yl)-3-hydroxypropyl)-1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-5-yl)benzonitrile (600 mg, 1.316 mmol) and triethylamine (0.550 mL, 3.95 mmol) in DCM (20 mL). The mixture was stirred at room temperature for 90 mins. Further portions of triethylamine (0.550 mL, 3.95 mmol) and trifluoromethanesulfonic anhydride (0.445 mL, 2.63 mmol) were added to allow the reaction to run to completion. The reaction mixture was quenched with saturated NaHCO3(aq) and extracted with DCM (3×). The combined organic extracts were passed through a hydrophobic frit and evaporated under vacuum. Purification by chromatography on silica, eluting with 20-80% EtOAc/hexane gave a crude material which was triturated with DCM/diethyl ether/hexane to afford the title compound.

reactant | Trifluoromethanesulfonic anhydride | 2.63 mmol, 0.445 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 3-(6-(3-(4-chlorothiazol-2-yl)-3-hydroxypropyl)-1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-5-yl)benzonitrile | 1.316 mmol, 600 mg | ClC=1N=C(SC1)C(CCN1C=C2N(C(N(C(C2=C1C=1C=C(C#N)C=CC1)=O)C)=O)C)O | C21H18ClN5O3S
reactant | triethylamine | 3.95 mmol, 0.550 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 3.95 mmol, 0.550 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 2.63 mmol, 0.445 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(9-(4-Chlorothiazol-2-yl)-1,3-dimethyl-2,4-dioxo-2,3,4,7,8,9-hexahydro-1H-pyrimido[4,5-a]pyrrolizin-5-yl)benzonitrile | ClC=1N=C(SC1)C1CCN2C(=C3C(=C12)N(C(N(C3=O)C)=O)C)C=3C=C(C#N)C=CC3 | C21H16ClN5O2S
